US06245790B1
A mixture of ammonium acetate (6.3 g), acetic acid (30 ml) and 1,2-diphenyl-2-oxoethyl (2-oxocyclohex-1-yl)acetate (15.0 g) was heated under reflux for 2.5 hours. After used workup, the crude product was purified by column chromatography (silica gel 100 g, eluent; hexane:ethyl acetate=20:1 then 9:1 then 6:1) to give 2-[(4,5-diphenyl-oxazol-2-yl)methyl]cyclohexanone as an amorphous solid.

reactant | ammonium acetate | 6.3 g | C(C)(=O)[O-].[NH4+]
reactant | 1,2-diphenyl-2-oxoethyl (2-oxocyclohex-1-yl)acetate | 15.0 g | O=C1C(CCCC1)CC(=O)OC(C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C22H22O4
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-[(4,5-diphenyl-oxazol-2-yl)methyl]cyclohexanone | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CC1C(CCCC1)=O | C22H21NO2
